US06248756B1
Step B: Preparation of Ethyl N-tert-butoxycarbonyl-4-(3-trifluoromethoxybenzyl)piperidine-4-carboxylate
To a cold (−78° C.) solution of ethyl N-tert-butoxycarbonylpiperidine-4-carboxylate (5.16 g, 20.05 mmol) in anhydrous tetrahydrofuran (60 mL), a solution of sodium bis(trimethylsilyl)amide (28 mL, 1M, 28 mmol) was added over a period of 30 min. The resultant mixture was stirred at −78° C. for 1 h, and 3-(trifluoromethoxy)benzyl bromide (5.90 g, 23.14 mmol) was added. The reacting mixture was allowed to warm to room temp. and stirred overnight. The product mixture was concentrated, and the residue was partitioned between water and ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 20% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound.

reactant | ethyl N-tert-butoxycarbonylpiperidine-4-carboxylate | 20.05 mmol, 5.16 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC | C13H23NO4
reactant | sodium bis(trimethylsilyl)amide | 28 mmol, 1M, 28 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-(trifluoromethoxy)benzyl bromide | 23.14 mmol, 5.90 g | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | Ethyl N-tert-butoxycarbonyl-4-(3-trifluoromethoxybenzyl)piperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CC1=CC(=CC=C1)OC(F)(F)F | C21H28F3NO5
